US04985427
Dihydro-4-methyl-1-(4-methylphenyl)-1,2,4-triazine-3,5-(2H,4H)-dione
To a solution of methyl [1-(4-methylphenyl)hydrazino]acetate (2.25 g) in acetonitrile (10 ml) was added methyl isocyanate (2 ml) and the mixture was heated under reflux for 30 min. The solvent was removed in vacuo to give a solid which was treated with a solution of sodium methoxide (27 ml; from sodium (4 g) and methanol (200 ml)) according to the method of Example 3 to give a solid which was purified by trituration with System A (1:1) to give the title compound (1.51 g), m.p. 193°-194°, t.l.c. (ether) Rf 0.56.

reactant | methyl [1-(4-methylphenyl)hydrazino]acetate | 2.25 g | CC1=CC=C(C=C1)N(N)CC(=O)OC | C10H14N2O2
reactant | methyl isocyanate | 2 ml | CN=C=O | C2H3NO
reactant | sodium methoxide | 27 ml, 4 g | C[O-].[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Dihydro-4-methyl-1-(4-methylphenyl)-1,2,4-triazine-3,5-(2H,4H)-dione | 1.51 g | CN1C(NN(CC1=O)C1=CC=C(C=C1)C)=O | C11H13N3O2
